** sch_path: /home/student/ee5311/tutorial_6/pet_dff_tb1_rise.sch
**.subckt pet_dff_tb1_rise
Vdd1 VDD 0 1.8
Vclk1 CLK 0 PULSE(0 1.8 10n 5p 5p 9.99n 20n)
Vclkb1 CLKB 0 PULSE(1.8 0 10n 5p 5p 9.99n 20n)
Vin1 D 0 PULSE(0 1.8 {t_start} 5p 5p 19.99n 30n)
x1 CLKB CLK D Q VDD 0 net1 pet_dff
x2 VDD Q net2 0 inv
**** begin user architecture code
.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt

.param t_start=9.8n
.control
let N=29
let index=0
let tdq_vec = vector(N)
let tdc_vec = vector(N)
let tcq_vec = vector(N)
let ts_vec = vector(N)
while index < N
	let ts = 9.8n + ((index)*5p)
	alterparam t_start = $&ts
	reset
	tran 0.01n 20n
	meas tran tdq trig v(D) val=0.9 rise=1 targ v(Q) val=0.9 rise=1
	meas tran tdc trig v(D) val=0.9 rise=1 targ v(CLK) val=0.9 rise=1
	meas tran tcq trig v(CLK) val=0.9 rise=1 targ v(Q) val=0.9 rise=1
	let tdq_vec[index] = $&tdq
	let tdc_vec[index] = $&tdc
	let tcq_vec[index] = $&tcq
	let ts_vec[index] = $&ts
	let index = index + 1
end
plot tran1.v(CLK) tran1.v(D) tran1.v(Q)
plot tran19.v(CLK) tran19.v(D) tran19.v(Q)
plot tran29.v(CLK) tran29.v(D) tran29.v(Q)
plot tdq_vec vs ts_vec
plot tdc_vec vs ts_vec
plot tcq_vec vs ts_vec
print tdq_vec tdc_vec tcq_vec > time_data_rise.txt
.endc

**** end user architecture code
**.ends

* expanding   symbol:  pet_dff.sym # of pins=7
** sym_path: /home/student/ee5311/tutorial_6/pet_dff.sym
** sch_path: /home/student/ee5311/tutorial_6/pet_dff.sch
.subckt pet_dff CLKB CLK D Q DVDD DGND QB
*.ipin D
*.opin Q
*.ipin CLK
*.ipin CLKB
*.iopin DVDD
*.iopin DGND
*.opin QB
XM1 net1 CLK net2 net2 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 net2 CLKB net1 net1 sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 net3 CLKB net2 net2 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 net2 CLK net3 net3 sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM5 net5 CLKB QB QB sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM6 QB CLK net5 net5 sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM7 net6 CLK QB QB sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM8 QB CLKB net6 net6 sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
x1 DVDD net4 net1 DGND inv
x2 DVDD D net3 DGND inv
x3 DVDD net2 net4 DGND inv
x4 DVDD net7 net5 DGND inv
x5 DVDD net4 net6 DGND inv
x6 DVDD QB Q DGND inv
x7 DVDD QB net7 DGND inv
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /home/student/ee5311/tutorial_6/inv.sym
** sch_path: /home/student/ee5311/tutorial_6/inv.sch
.subckt inv DVDD in out DGND
*.iopin DVDD
*.iopin DGND
*.ipin in
*.opin out
XM1 out in DVDD DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 out in DGND DGND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.end
